US04752629
1 mole triphenylchloromethane was stirred with 1.5 moles potassium acrylate in 998 g dimethyl formamide in the presence of 0.14 g hydroquinone under the conditions described in Example 1. The precipitated potassium chloride was filtered off and the triphenyl methyl acrylate solution was concentrated by rotary evaporation at 65° to 100° C. and reduced to produce liquid triphenylmethyl acrylate. This was dissolved at 70 percent in xylene and filtered.

reactant | triphenylchloromethane | 1 mole | C1(=CC=CC=C1)C(Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15Cl
reactant | potassium acrylate | 1.5 moles | C(C=C)(=O)[O-].[K+]
reactant | hydroquinone | 0.14 g | C1(O)=CC=C(O)C=C1 | C6H6O2
solvent | dimethyl formamide | 998 g | CN(C=O)C | C3H7NO
product | triphenylmethyl acrylate | C(C=C)(=O)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H18O2
